US07465726B2
4-[4-(Biphenyl-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (60.0 mg, 0.179 mmol) and biphenyl-3-ylamine (30.5 mmol, 0.180 mmol) in nBuOH (3 mL) was heated to 80° C. (bath temp.) for 17 h. The solvent was evaporated, water/NaHCO3 solution was added, the mixture was extracted with CH2Cl2 (3×20 mL), and the combined extracts were washed with brine and dried over MgSO4. MgSO4 was filtered off, the filtrate was concentrated, and the residue was chromatographed on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 (1-9)→1% MeOH in CH2Cl2 (10-19)→2% MeOH in CH2Cl2 (20-30)]. Fr.17-26 were combined and dried in vacuo overnight. One obtained the title compound as off-white solid. MS (ES+): m/z 468.1 (100) [MH+]. HPLC: tR=3.2 min (ZQ2000, nonpolar—5 min). 1H NMR (CDCl3, 400 MHz): δ=1.50 (s, 9H), 2.44-2.55 (brs, 2H), 3.61-3.71 (m, 2H), 4.13-4.22 (m, 2H), 6.15 (s, 1H), 6.24 (s, 1H), 7.11 (brs, 1H), 7.37 (t, J=7.4 Hz, 1H), 7.40-7.52 (m, 4H), 7.60-7.67 (m, 3H), 7.80 (t, J=1.6 Hz, 1H), 8.43 (s, 1H), 11.83 (brs, 1H).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.179 mmol, 60.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | biphenyl-3-ylamine | 30.5 mmol | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 4-[4-(Biphenyl-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C(C=CC2)C2=CC=CC=C2)N1 | C28H29N5O2
